US07875639B2
3.5-Dihydroxy-adamantane-1-carboxylic acid
To a mixture of potassium hydroxide (130 mg, 2.0 mmol) and potassium permanganate (350 mg, 2.2 mmol) in H2O (10 mL) at 50° C. was added 3-bromo-adamantane-1-carboxylic acid (512 mg, 2.0 mmol). The reaction mixture was heated at 98° C. for 18 hours. After cooling to ambient temperature, the mixture was acidified by the addition of 6 N aqueous HCl, then saturated aqueous sodium bisulfite was added. The mixture was extracted with 2-propanol/CH2Cl2 (1:3). The organic extract was concentrated to afford the title compound.

reactant | potassium hydroxide | 2.0 mmol, 130 mg | [OH-].[K+]
reactant | potassium permanganate | 2.2 mmol, 350 mg | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | 3-bromo-adamantane-1-carboxylic acid | 2.0 mmol, 512 mg | BrC12CC3(CC(CC(C1)C3)C2)C(=O)O | C11H15BrO2
reactant | HCl | 6 N | Cl | ClH
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | H2O | 10 mL | O | H2O
product | 3.5-Dihydroxy-adamantane-1-carboxylic acid | OC12CC3(CC(CC(C1)(C3)O)C2)C(=O)O | C11H16O4
